Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Wound Infection
 
Major Surgical or Invasive Procedure:
Right Craniotomy and Evacuation of Abscess on ___
 
History of Present Illness:
Ms. ___ is a ___ y/o woman with a past medical history
of MS, and a right parietal brain abscess which was discovered
approxiamtely one month ago, when she presented with left arm 
and
face numbness. The abscess was drained in the OR on ___, and she
was initially started on broad spectrum antibiotics until 
culture
data returned with S. anginosus and fusobacterium, she was then
transitioned to Ceftriaxone 2g IV q12h, and flagyl 500mg TID,
which she has been on since through her PICC line. On ___, she
was seen in ___ clinic and a repeat MRI was performed
which revealed increased edema with persistent ring enhancing
abnormality at the right parietal surgical site, concerning for
ongoing abscess. She was therefore scheduled for repeat drainage
on ___. She was seen as an outpatient in the infectious disease
office today, ___, and it was recommended that she be admitted
to the hospital one day early for broadening of her antibiotic
regimen prior to drainage.

She states that over the past month, her symptoms, including 
left
upper extremity weakness and numbness, have come and gone,
although she thinks that overall they have worsened slightly. 
She
denies any fevers/chills, or headaches. No changes in vision, 
leg
weakness or trouble with coordination or balance.

She denies shortness of breath, chest pain, abdominal pain.

 
Past Medical History:
Multiple sclerosis
 
Social History:
___
Family History:
Mother with pancreatic cancer, brother-lung cancer, two sisters 
with brain cancer.

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
General Physical Exam:
General - Appears comfortable
HEENT - MMM, no scleral icterus, no proptosis, sclera and
conjunctiva with no edema/injection. Neck is supple.
CV - RRR, no murmurs, rubs, or gallops. No carotid bruits
Pulm - CTA b/l
Abd - soft, non-tender, normal bowel sounds
Extremities - no cyanosis, no edema
Skin - warm and pink with no rashes
Neurologic Exam:
MENTAL STATUS: Awake and alert, oriented x 3, responds to
multi-step commands which cross the midline. Knows recent and
distant events. No hemisensory or visual neglect.

PHYSICAL EXAMINATION ON DISCHARGE:
XXXXXX
 
Pertinent Results:
MRI Brain for Operative Planning: ___
Decrease in size of known right frontal vertex rim-enhancing 
lesion, but unchanged vasogenic edema and mass effect.

Non-Contrast Head CT: ___
POST-OP SCAN 
IMPRESSION:  
Status post redo right parietal vertex craniotomy with no 
evidence of hemorrhage.  Stable vasogenic edema extending in the 
right frontal and parietal lobes. 

 
Brief Hospital Course:
Ms. ___ is a ___ y/o F who was admitted to the neurosurgery 
service on the day of admission, ___ from the Infectious 
Disease Clinic in anticipation for evacuation of the brain 
abscess. She underwent a MRI prior surgery for operative 
planning. She underwent a right craniotomy and evacuation of 
abscess on ___. She tolerated the procedure well and was 
extubated in the operating room. She was then transferred to the 
ICU for recovery. She underwent a post-operative non-contrasat 
head CT which revealed normal post operative changes and no new 
hemorrahge. 

On ___, she was sitting in the chair, hemodynamically and 
neurologically intact. She transfered to the floor in stable 
conditions. 

Mrs. ___ was followed by Infectious Disease.  They 
recommended that the patient be started on vancomycin and 
meropenem until culture data from her head wound was obtained.  

On ___, cultures revealed no growth. The patient was continued 
on Vancomycin, meropenem was changed to ertapenum.

The patient continued to progress well, although she had some 
residual left-sided weakness.  She also complained of some 
left-handed numbness and pain.  

On ___, the patient had a MR head with and without contrast 
including DWI, which showed slight improvement. She was 
discharged home on ___ with appropriate follow-up, and all 
questions were answered before discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CeftriaXONE 1 gm IV Q12H 
2. MetRONIDAZOLE (FLagyl) 500 mg PO TID 
3. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
4. Acetaminophen 325-650 mg PO Q6H:PRN pain 
5. LeVETiracetam 1000 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Brain Abscess
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Your staples should stay clean and dry until they are removed. 

Have a friend or family member check the wound for signs of 
infection such as redness or drainage daily. 
Take your pain medicine as prescribed if needed. You do not 
need to take it if you do not have pain.
Exercise should be limited to walking; no lifting >10lbs, 
straining, or excessive bending.
Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
DO not take any anti-inflammatory medicines such as Motrin, 
Aspirin, Advil, or Ibuprofen etc. until follow up.
 You have been discharged on Keppra (Levetiracetam) for 
anti-seizure medicine; you will not require blood work 
monitoring.
Do not drive until your follow up appointment.

 
Followup Instructions:
___